US06552022B1
4-(4-Nitro-phenyl)-piperazine-1-carboxylic Acid tert-butyl Ester
To a solution of 1-(4-nitro-phenyl)-piperazine (15.5 g) in CH2Cl2 (250 mL) was added Et3N (8.3 g). The solution was cooled to 0° C. and di-tert-butyl dicarbonate (17.1 g) was added portionwise. After 16 hours at room temperature, the solution was washed with water, with a saturated solution of NaHCO3 and brine. The organic phase was dried over Na2SO4, filtered and evaporated under reduced pressure and the resulting solid was recrystallized from MeOH to give the title compound (21.5 g) as pale yellow crystals.

reactant | 1-(4-nitro-phenyl)-piperazine | 15.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | Et3N | 8.3 g | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 17.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Nitro-phenyl)-piperazine-1-carboxylic Acid tert-butyl Ester | 21.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O4
